US07666901B2
Preparation of (1Z,4S,4aR,5R,6aS,7S,9aR)-1-[(ethylamino)methylene]-7,11-dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate
To a solution of 100 mg (0.23 mmol) 17-hydroxywortmannin in 2 mL CH2Cl2 is added 100 mg of ethylamine hydrochloride and 100 μL triethylamine. The reaction mixture is stirred at room temperature for 24 h. Water is added and the CH2Cl2 is removed, filtered through K2CO3 and concentrated in vacuo. The residue is dissolved in EtOAc and precipitated with hexanes to give a yellow powder (32 mg, 29%). MS (ESI) m/z 476.22813 (M+1).

reactant | 17-hydroxywortmannin | 0.23 mmol, 100 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | ethylamine hydrochloride | 100 mg | Cl.C(C)N
reactant | triethylamine | 100 μL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (1Z,4S,4aR,5R,6aS,7S,9aR)-1-[(ethylamino)methylene]-7,11-dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate | 32 mg, 29% | C(C)(=O)O[C@@H]1C[C@@]2([C@H](CC[C@H]2C=2C(C(=C3/C(/C(O[C@@H]([C@@]3(C21)C)COC)=O)=C/NCC)O)=O)O)C | C25H33NO8
